US06432993B1
t-Butyl N-[5-(pyridine-2-yloxy)-2-nitrophenyl]-N-methylcarbamate
By using 0.76 g of 2-hydroxypyridine, 2.29 g of t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate, 0.35 g of sodium hydride (55% by weight) and 10 ml of anhydrous N,N-dimethylformamide, reaction and purification were carried out in a similar manner to that described in Reference Example 6, whereby 0.36 g of the title compound were obtained.

reactant | 2-hydroxypyridine | 0.76 g | OC1=NC=CC=C1 | C5H5NO
reactant | t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate | 2.29 g | ClC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C12H15ClN2O4
reactant | sodium hydride | 0.35 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | t-Butyl N-[5-(pyridine-2-yloxy)-2-nitrophenyl]-N-methylcarbamate | 0.36 g | N1=C(C=CC=C1)OC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C17H19N3O5
